US09034861B2
Preparation of 3,4,5-Trifluoro-1-nitrophenol
3,4,5-Trifluorophenol (14.81 g, 0.1 mol) was dissolved in glacial acetic acid (50 mL) and cooled to 4° C. while concentrated nitric acid (5 mL, 70%) was added dropwise over 15 min, during which time the color of the mixture becomes yellow. Upon complete addition of HNO3, the reaction mixture was allowed to warm to room temperature and stirred for an additional 30 min. TLC analysis of an aliquot extracted into ethyl acetate indicates that a new non-polar spot was formed and the complete consumption of starting material. The mixture was then diluted with ethyl acetate (200 mL), transferred to separatory funnel, and washed copiously with water (3×100 mL). The organic layer was finally washed with brine, dried over anhyd MgSO4, and evaporated under reduced pressure to afford crude product as a yellowish oil. (17.3 g, 90%). This crude material was used directly in the subsequent reaction described in Intermediate 6. 1H NMR (400 MHz, CDCl3): 6.84 (m, 1H, ArH), 10.28 (brs, 1H, OH).

reactant | 3,4,5-Trifluorophenol | 0.1 mol, 14.81 g | FC=1C=C(C=C(C1F)F)O | C6H3F3O
reactant | nitric acid | 5 mL | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 3,4,5-Trifluoro-1-nitrophenol | FC=1CC(C=C(C1F)F)(O)[N+](=O)[O-] | C6H4F3NO3
